US07459567B2
[4-(2-Chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetic acid (0.630 g, 1.62 mmol) was dissolved in CH2CL2 (5 mL) and carbonyldiimidizole (1.31 g, 8.1 mmol) was added. The solution was stirred under argon at room temperature for thirty minutes. 1-H-Pyrazole-1-carboxamidine hydrochloride (2.37 g, 16.2 mmol) and diisopropyl ethylamine (4.23 mL, 3.14 g, 24.3 mmol) were added the solution was stirred overnight. The solvent was removed and the mixture was absorbed onto silica gel and purified by flash chromatography (20:1 CHCl3:MeOH to yield 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[imino(1H-pyrazol-1-yl)methyl]acetamide (0.421 g) as a white solid. mp 119-120 ° C.; 1H NMR (500 MHz, DMSO-d6) δ: 0.98 (t, 3H, J=7.3 Hz), 1.73 (m, 2H), 3.55 (s, 2H), 3.96 (t, 2H, J=6.4 Hz), 6.53 (m, 1H), 7.02 (d, 2H, J=8.7 Hz), 7.30 (m, 4H), 7.40 (s, 1H), 7.49 (d, 2H, J=8.5 Hz), 7.89 (s, 1H), 8.08 (s, 1H). MS (ES) m/z 479.1 ([M+H]+). MS (ES) m/z 957.2 ([2M+H]+). MS (ES) m/z 979.2 ([2M+NA]+). Anal. Calcd for C25H23ClN4O2S: C, 62.69; H, 4.84; N, 11.70. Found: C, 62.35; H, 4.86; N, 11.58.

reactant | [4-(2-Chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetic acid | 1.62 mmol, 0.630 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)O | C21H19ClO3S
reactant | 1-H-Pyrazole-1-carboxamidine hydrochloride | 16.2 mmol, 2.37 g | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropyl ethylamine | 24.3 mmol, 4.23 mL, 3.14 g | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[imino(1H-pyrazol-1-yl)methyl]acetamide | 0.421 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)NC(N1N=CC=C1)=N | C25H23ClN4O2S
